US04937306
To a slurry of 212.0 g of 2,4-dinitrobenzoic acid in 1400 ml of toluene was added with agitation 101.0 g of triethylamine, followed by 122.7 g of N-methylpiperazine. Next 75.7 g of phosphorus oxychloride was added dropwise at such a rate to maintain the reaction temperature below 90° C. The mixture was refluxed for 5 hrs. cooled to 80° C., and poured slowly into 1000 ml of aqueous 5% NaHCO3 solution with stirring. The precipitate was filtered, washed with water and recrystallized from hot methanol to yield 161 g of N1 -methyl-N4 -(2,4-dinitrobenzoyl)- piperazine, mp 130°-132° C.

reactant | 2,4-dinitrobenzoic acid | 212.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | N-methylpiperazine | 122.7 g | CN1CCNCC1 | C5H12N2
reactant | phosphorus oxychloride | 75.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 1400 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 101.0 g | C(C)N(CC)CC | C6H15N
product | N1 -methyl-N4 -(2,4-dinitrobenzoyl)- piperazine | 161 g | CN1CCN(CC1)C(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C12H14N4O5
